US04771046
0.44 ml of chloroacetonitrile was added to a solution of sodium methoxide, prepared by dissolving 16 mg of metallic sodium in 2.8 ml of absolute methanol, and the mixture was stirred at room temperature for about 30 minutes. 950 mg of 3-hydroxyiminopyrrolidine hydrochloride were then added, and the mixture was stirred for a further 2 hours. After completion of the reaction, the solvent was distilled off and the concentrate mixed with anhydrous ether, giving a crystalline product. The crystals were collected by filtration and washed with ether, giving 1.15 g of 2-(3-hydroxyiminopyrrolidin-1-yl)-2-iminoethylchloride hydrochloride.

reactant | chloroacetonitrile | 0.44 ml | ClCC#N | C2H2ClN
reactant | sodium methoxide | C[O-].[Na+]
reactant | sodium | 16 mg | [Na] | Na
reactant | 3-hydroxyiminopyrrolidine hydrochloride | 950 mg | Cl.ON=C1CNCC1
solvent | methanol | 2.8 ml | CO | CH4O
product | 2-(3-hydroxyiminopyrrolidin-1-yl)-2-iminoethylchloride hydrochloride | 1.15 g | Cl.ON=C1CN(CC1)C(CCl)=N | InChI=1S/C6H10ClN3O.ClH/c7-3-6(8)10-2-1-5(4-10)9-11;/h8,11H,1-4H2;1H
